US04771050
A mixture of (S)-methyl 3,4-dihydro-2,8-diisopropyl-3-oxo-2H-1,4-benzoxazine-4-acetate (3.05 g), 2,4-bis (methylthio)-1,3,2,4-dithiadiphosphetan-2,4-disulfide (Davy reagent methyl)(2.84 g) and toluene (60 ml) was stirred at 50° C. for 64 hours. The insoluble material was filtered off and the filtrate was concentrated. The residue was purified by column chromatography on silica gel (100 g) using hexane-ethyl ether (85:15, v/v) as the eluent to yield (S)-methyl 3,4-dihydro-2,8-diisopropyl-3-thioxo-2H-1,4-benzoxazine-4-acetate as an oil (3.00 g).

reactant | (S)-methyl 3,4-dihydro-2,8-diisopropyl-3-oxo-2H-1,4-benzoxazine-4-acetate | 3.05 g | C(C)(C)[C@@H]1OC2=C(N(C1=O)CC(=O)OC)C=CC=C2C(C)C | C17H23NO4
reactant | 2,4-bis (methylthio)-1,3,2,4-dithiadiphosphetan-2,4-disulfide | 2.84 g | CSP1(SP(S1)(SC)=S)=S | C2H6P2S6
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-methyl 3,4-dihydro-2,8-diisopropyl-3-thioxo-2H-1,4-benzoxazine-4-acetate | 3.00 g | C(C)(C)[C@@H]1OC2=C(N(C1=S)CC(=O)OC)C=CC=C2C(C)C | C17H23NO3S
